*****************************************************************
* NXP BSH105
*
* Polarity N-Channel
* Ratings 20V/1.400000E-001OHMS/1.05A
*
* Date Created Tue Apr 17 04:46:01 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BSH105 DRAIN GATE SOURCE

LD DRAIN 5 4e-10
RLD2 DRAIN 5 1.00530964914873
RLD1 5 4 0.0023
LG GATE 1 7.97740315722523e-10
RLG GATE 1 2.00494009227702
LS SOURCE 8 1.20403224420656e-09
RLS2 SOURCE 8 3.02606308246765
RLS1 8 7 0.0247663428442233

RDS 7 4 320000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0779828760271158 TC=0.00543144442314538,-5.32897904982936E-06
RBD 9 4 0.0332376913911713 TC=0.00543144442314538,-5.32897904982936E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 800000000
CGS 2 6 1.1117e-10
RG 1 2 1.97713365715578

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -8	287.16
+ -5	286.14
+ -4	285.44
+ -3	284.08
+ -2	281.32
+ -1	294.4
+ -0.5	377.44
+ -0.2	331.05
+ -0.1	312.12
+ 0	290.57
+ 0.1	265.61
+ 0.2	238.83
+ 0.5	168.61
+ 1	115.97
+ 2	80.51
+ 5	50.68
+ 10	35.91
+ 12	32.82
+ 20	25.57



.MODEL MINT NMOS(Vto=0.757460943566951 Kp=7.666924e+000 Nfs=480000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1100)

.MODEL DBD D(Bv=28.61 Ibv=1.000000E-005 Rs=1E-6 Is=2.84832658234512e-12
+ N=1 M=0.37 VJ=0.59 Fc=0.5 Cjo=1.2362e-10 Tt=1.85e-08)

.ENDS

